* First line is treated as comment
.options list node post

* Include transistor models from the appropriate directory on the server
.include '/opt/cadence/gpdk045/gpdk045_v_6_0/models/hspice/g45n1svt.inc'
.include '/opt/cadence/gpdk045/gpdk045_v_6_0/models/hspice/g45p1svt.inc'


** Define Parameters

.param tper = 500
.param tris = 50
.param tfall = 50
.param tpw = '(tper - tris - tfall)/2'
.param tdlay = 0
.param vdd_val=1.1

* Digital vector file for input
.vec 'input0.vec'

** Create pulse source as clock signal

Vpulse PHI 0 PULSE
+ 0 vdd_val
+ 'tdlay * 1p' 'tris * 1p' 'tfall * 1p'
+ 'tpw * 1p' 'tper * 1p'

** Add DC voltage
Vsupply vdd 0 vdd_val
Vgnd GND 0 0


** Library name: lab1_virt
** Cell name: NAND
** View name: schematic
.subckt NAND a b gnd vdd y
mnm1 net16 b gnd gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm0 y a net16 gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mpm1 y a vdd vdd g45p1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mpm0 y b vdd vdd g45p1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
.ends NAND
** End of subcircuit definition.

** Library name: accumulator_bitslice
** Cell name: inv
** View name: schematic
.subckt inv a gnd vdd y
mnm0 y a gnd gnd g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mpm0 y a vdd vdd g45p1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
.ends inv
** End of subcircuit definition.

** Library name: accumulator_bitslice
** Cell name: XOR
** View name: schematic
.subckt XOR a b gnd vdd y
mpm3 y a net24 vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm2 y net010 net25 vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm1 net24 net09 vdd vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm0 net25 b vdd vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mnm3 net22 b gnd gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm2 net23 net09 gnd gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm1 y a net22 gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm0 y net010 net23 gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
xi2 a gnd vdd net010 inv
xi3 b gnd vdd net09 inv
.ends XOR
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: Full_Adder
** View name: schematic
.subckt Full_Adder a b cin cout gnd sum vdd
xi10 b a gnd vdd net20 NAND
xi11 net21 net20 gnd vdd cout NAND
xi9 net8 cin gnd vdd net21 NAND
xi13 net8 cin gnd vdd sum XOR
xi12 a b gnd vdd net8 XOR
.ends Full_Adder
** End of subcircuit definition.

** Library name: accumulator_bitslice
** Cell name: FlipFlop
** View name: schematic
.subckt FlipFlop d gnd phi q vdd
mpm3 q net12 net26 vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm2 net13 phi net28 vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm1 net26 net13 vdd vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm0 net28 d vdd vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mnm3 net25 net13 gnd gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm2 net27 d gnd gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm1 q phi net25 gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm0 net13 net12 net27 gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
xi0 phi gnd vdd net12 inv
.ends FlipFlop
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: faabs
** View name: schematic
.subckt faabs a cin cout gnd phi rst sout vdd
xi0 a sout cin cout gnd net017 vdd Full_Adder
xi1 rst net017 gnd vdd net21 NAND
xi2 net21 gnd phi net20 vdd FlipFlop
xi3 net20 gnd vdd sout inv
.ends faabs
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: AND
** View name: schematic
.subckt AND a b gnd vdd y
mnm2 y net14 gnd gnd g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mnm3 net14 a net24 gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm4 net24 b gnd gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mpm0 net14 a vdd vdd g45p1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mpm1 net14 b vdd vdd g45p1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mpm2 y net14 vdd vdd g45p1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
.ends AND
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: XOR_ni
** View name: schematic
.subckt XOR_ni a abar b bbar gnd vdd y
mpm3 y a net29 vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm2 net29 bbar vdd vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm1 y abar net31 vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm0 net31 b vdd vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mnm3 net27 b gnd gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm2 net28 bbar gnd gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm1 y a net27 gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
mnm0 y abar net28 gnd g45n1svt L=45e-9 W=240e-9 AD=33.6e-15 AS=33.6e-15 PD=760e-9 PS=760e-9 NRD=583.333e-3 NRS=583.333e-3 M=1
.ends XOR_ni
** End of subcircuit definition.

** Library name: accumulator_bitslice
** Cell name: NOR
** View name: schematic
.subckt NOR a b gnd vdd y
mnm1 y b gnd gnd g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mnm0 y a gnd gnd g45n1svt L=45e-9 W=120e-9 AD=16.8e-15 AS=16.8e-15 PD=520e-9 PS=520e-9 NRD=1.16667 NRS=1.16667 M=1
mpm1 y b net17 vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
mpm0 net17 a vdd vdd g45p1svt L=45e-9 W=480e-9 AD=67.2e-15 AS=67.2e-15 PD=1.24e-6 PS=1.24e-6 NRD=291.667e-3 NRS=291.667e-3 M=1
.ends NOR
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: Half_Adder
** View name: schematic
.subckt Half_Adder a b cout gnd sum vdd
xi2 a net10 b net17 gnd vdd sum XOR_ni
xi4 b gnd vdd net17 inv
xi3 a gnd vdd net10 inv
xi5 net10 net17 gnd vdd cout NOR
.ends Half_Adder
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: dreg5b
** View name: schematic
.subckt dreg5b a0 a0p a1 a1p a2 a2p a3 a3p a4 a4p gnd phi vdd
xi9 a4 gnd phi a4p vdd FlipFlop
xi8 a3 gnd phi a3p vdd FlipFlop
xi7 a2 gnd phi a2p vdd FlipFlop
xi6 a1 gnd phi a1p vdd FlipFlop
xi5 a0 gnd phi a0p vdd FlipFlop
.ends dreg5b
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: dreg8b
** View name: schematic
.subckt dreg8b a0 a0p a1 a1p a2 a2p a3 a3p a4 a4p a5 a5p a6 a6p a7 a7p gnd phi vdd
xi0 a0 a0p a1 a1p a2 a2p a3 a3p a4 a4p gnd phi vdd dreg5b
xi4 a5 gnd phi a5p vdd FlipFlop
xi5 a6 gnd phi a6p vdd FlipFlop
xi6 a7 gnd phi a7p vdd FlipFlop
.ends dreg8b
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: Multiplier_ppl
** View name: schematic
.subckt Multiplier_ppl a0 a1 a2 a3 b0 b1 b2 b3 gnd p0 p1 p2 p3 p4 p5 p6 p7 phi vdd
xi23 net063 net0114 gnd vdd net079 AND
xi15 b2 a0 gnd vdd net051 AND
xi14 b2 a1 gnd vdd net050 AND
xi13 b2 a2 gnd vdd net049 AND
xi7 b1 a0 gnd vdd net48 AND
xi5 b1 a2 gnd vdd net24 AND
xi4 b1 a1 gnd vdd net62 AND
xi2 b0 a2 gnd vdd net30 AND
xi1 b0 a1 gnd vdd net47 AND
xi0 b0 a0 gnd vdd net0126 AND
xi22 net063 net0116 gnd vdd net081 NAND
xi21 net063 net0117 gnd vdd net082 NAND
xi20 net063 net0118 gnd vdd net083 NAND
xi12 net0102 net0103 gnd vdd net052 NAND
xi6 b1 a3 gnd vdd net39 NAND
xi3 b0 a3 gnd vdd net42 NAND
xi31 net078 net083 net092 gnd p3 vdd Half_Adder
xi32 net088 vdd net0107 gnd p7 vdd Half_Adder
xi30 net60 net051 net053 gnd net0124 vdd Half_Adder
xi29 net47 net48 net45 gnd net0125 vdd Half_Adder
xi28 net072 net079 net090 net088 gnd p6 vdd Full_Adder
xi27 net073 net081 net091 net090 gnd p5 vdd Full_Adder
xi26 net076 net082 net092 net091 gnd p4 vdd Full_Adder
xi19 net0101 net052 net054 net072 gnd net073 vdd Full_Adder
xi18 net099 net0100 net055 net054 gnd net076 vdd Full_Adder
xi17 net097 net098 net096 net055 gnd net078 vdd Full_Adder
xi11 net39 vdd net54 net49 gnd net50 vdd Full_Adder
xi10 net42 net24 net59 net54 gnd net55 vdd Full_Adder
xi9 net30 net62 net45 net59 gnd net60 vdd Full_Adder
xi33 net053 net096 net55 net097 net050 net098 net50 net099 net049 net0100 net49 net0101 b2 net0102 a3 net0103 gnd phi vdd dreg8b
xi34 a0 net0118 a1 net0117 a2 net0116 a3 net0114 b3 net063 gnd phi vdd dreg5b
xi37 net0126 gnd phi p0 vdd FlipFlop
xi36 net0125 gnd phi p1 vdd FlipFlop
xi35 net0124 gnd phi p2 vdd FlipFlop
.ends Multiplier_ppl
** End of subcircuit definition.

** Library name: systolic_array
** Cell name: proc_el_ppl
** View name: schematic
xi8 net13 net14 net21 gnd phi rst s7 vdd faabs
xi7 net12 net15 net14 gnd phi rst s6 vdd faabs
xi6 net11 net16 net15 gnd phi rst s5 vdd faabs
xi5 net10 net17 net16 gnd phi rst s4 vdd faabs
xi4 net9 net18 net17 gnd phi rst s3 vdd faabs
xi3 net8 net19 net18 gnd phi rst s2 vdd faabs
xi2 net7 net20 net19 gnd phi rst s1 vdd faabs
xi1 net6 gnd net20 gnd phi rst s0 vdd faabs
xi53 a0 a1 a2 a3 b0 b1 b2 b3 gnd net6 net7 net8 net9 net10 net11 net12 net13 phi vdd Multiplier_ppl
xi35 b3 gnd phi b3p vdd FlipFlop
xi34 b2 gnd phi b2p vdd FlipFlop
xi33 b1 gnd phi b1p vdd FlipFlop
xi32 b0 gnd phi b0p gnd FlipFlop
xi31 a3 gnd phi a3p vdd FlipFlop
xi30 a2 gnd phi a2p vdd FlipFlop
xi29 a1 gnd phi a1p vdd FlipFlop
xi28 a0 gnd phi a0p vdd FlipFlop
xi54 rst gnd phi rstp vdd FlipFlop


* transient analysis with 1ps step and 0.8ns stop time
.tran 1p 5n



.END


